US07294716B2
Methyl 2,2-dimethyl-3-(tolylsulfonyloxy)propionate (Intermediate A35)
A mixture of methyl 2,2-dimethyl-3-hydroxypropionate (100 g, 0.76 mol), 4-toluenesulfonyl chloride (151 g, 0.80 mol), 4-dimethylaminopyridine (4.6 g, 0.038 mol), and pyridine (200 mL) was stirred for 20 hrs and then was diluted with 200 mL toluene, stirred for 30 min, and filtered. The filtrate was concentrated to 250 mL under reduced pressure, diluted with 100 mL toluene, filtered, and concentrated. The residue was suspended in 200 mL hexanes, and the solvent was removed under reduced pressure to yield the title compound, desired product (235 g, 100%) contaminated by a trace of 4-toluenesulfonyl chloride.

reactant | methyl 2,2-dimethyl-3-hydroxypropionate | 0.76 mol, 100 g | CC(C(=O)OC)(CO)C | C6H12O3
reactant | 4-toluenesulfonyl chloride | 0.80 mol, 151 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyridine | 200 mL | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | 0.038 mol, 4.6 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl 2,2-dimethyl-3-(tolylsulfonyloxy)propionate | 235 g, 100% | CC(C(=O)OC)(COS(=O)(=O)C1=C(C=CC=C1)C)C | C13H18O5S
